US06660744B1
Cis-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.082 g, 0.000188 mol) was dissolved in anhydrous pyridine (1 mL), benzyl isocyanate (0.025 g, 0.000188 mol) was added and the resulting solution was stirred at ambient temperature for 20 hours. The solvent was removed under reduced pressure and the resulting residue purified by preparative HPLC (Hypersil C 18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-N′-benzylurea acetate (0.009 g, 0.0000142 mol) as a white solid.

reactant | Cis-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000188 mol, 0.082 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | benzyl isocyanate | 0.000188 mol, 0.025 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | cis-N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-N′-benzylurea acetate | 0.0000142 mol, 0.009 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NCC2=CC=CC=C2)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C31H39N9O2.C2H4O2/c1-38-14-16-39(17-15-38)23-9-11-24(12-10-23)40-30-27(29(32)34-20-35-30)28(37-40)22-8-13-25(26(18-22)42-2)36-31(41)33-19-21-6-4-3-5-7-21;1-2(3)4/h3-8,13,18,20,23-24H,9-12,14-17,19H2,1-2H3,(H2,32,34,35)(H2,33,36,41);1H3,(H,3,4)/t23-,24+;
